US06949542B2
4-[3-(2-Ethyl-pyridin-4-yl)-phenyl]-7-(2,2,2-trifluoro-ethoxy)-8-trifluoromethyl-1,3-dihydro-benzo[b][1,4]diazepin-2-one
The title compound was prepared from [2-{3-[3-(2-ethyl-pyridin-4-yl)-phenyl]-3-oxo-propionylamino}-5-(2,2,2-trifluoro-ethoxy)-4-trifluoromethyl-phenyl]-carbamic acid tert-butyl ester (Example M140) (0.34 g, 0.54 mmol) by treatment with TFA in CH2Cl2 according to the general procedure N. Obtained as a light brown solid (239 mg, 87%).

reactant | [2-{3-[3-(2-ethyl-pyridin-4-yl)-phenyl]-3-oxo-propionylamino}-5-(2,2,2-trifluoro-ethoxy)-4-trifluoromethyl-phenyl]-carbamic acid tert-butyl ester | 0.54 mmol, 0.34 g | C(C)(C)(C)OC(NC1=C(C=C(C(=C1)OCC(F)(F)F)C(F)(F)F)NC(CC(=O)C1=CC(=CC=C1)C1=CC(=NC=C1)CC)=O)=O | C30H29F6N3O5
reactant | TFA | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | 4-[3-(2-Ethyl-pyridin-4-yl)-phenyl]-7-(2,2,2-trifluoro-ethoxy)-8-trifluoromethyl-1,3-dihydro-benzo[b][1,4]diazepin-2-one | C(C)C1=NC=CC(=C1)C=1C=C(C=CC1)C1=NC2=C(NC(C1)=O)C=C(C(=C2)OCC(F)(F)F)C(F)(F)F | C25H19F6N3O2
